### PR TITLE
lemmas about serie, cvg, and lim

### PR DESCRIPTION
**Pull request by affeldt-aist**
Co-Authored-By: thery <Laurent.Thery@inria.fr>

extracted from PR #383 

@thery

### CODE REVIEW

File: theories/sequences.v [hunk 1]
```diff
@@ -362,6 +362,58 @@ Arguments series {V} u_ n : simpl never.
...
+
+Lemma lim_seriesN f : cvg (series f) -> lim (series (- f)) = - lim (series f).
+Proof. by move=> cf; rewrite seriesN limN. Qed.
+
+Lemma is_cvg_seriesZr f k : cvg (series f) -> cvg (series (k *: f)).
+Proof. by move=> cf; rewrite seriesZr; exact: is_cvgZr. Qed.
+
+Lemma lim_seriesZr f k : cvg (series f) ->
+  lim (series (k *: f)) = k *: lim (series f).
+Proof. by move=> cf; rewrite seriesZr limZr. Qed.
```
Comment (CohenCyril) [inline theories/sequences.v:390]: Why the `r` in `Zr` ?

**Comment by affeldt-aist** [comment]
I've changed the `seriesZr` substrings in the identifiers to `seriesZ`. Using `Zr` was stemming from `limZr`
but here it is a bit surprising and `Z` only looks more natural.

**Review by CohenCyril — APPROVED** [review]
